US07524847B2
4-[6-(2-Cyano-ethylamino)-5-nitro-pyrimidin-4-yl]piperazine-1-carboxylic acid t-butyl ester
4-(6-Chloro-5-nitro-pyrimidin-4-yl)piperazine-1-carboxylic acid t-butyl ester (3.0 g) was dissolved in acetonitrile (30 mL), and then 3-aminopropionitrile (0.71 mL) and triethylamine (1.58 mL) were added to this solution. After stirring the reaction solution at room temperature for 14 hours, water (60 mL) was added. The reaction solution was stirred at room temperature for 30 minutes, and then the precipitate was collected by filtration. The obtained yellow solid was washed with water and hexane to give the title compound (1.97 g).

reactant | 4-(6-Chloro-5-nitro-pyrimidin-4-yl)piperazine-1-carboxylic acid t-butyl ester | 3.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1[N+](=O)[O-])Cl | C13H18ClN5O4
reactant | 3-aminopropionitrile | 0.71 mL | NCCC#N | C3H6N2
reactant | triethylamine | 1.58 mL | C(C)N(CC)CC | C6H15N
reactant | water | 60 mL | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-[6-(2-Cyano-ethylamino)-5-nitro-pyrimidin-4-yl]piperazine-1-carboxylic acid t-butyl ester | 1.97 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1[N+](=O)[O-])NCCC#N | C16H23N7O4
